US08012956B2
To a solution of methyl 5-amino-4-cyano-2-methylbenzoate (5.0 g, 0.0262 mol) in THF (100 mL) was added copper iodide (5.0 g, 0.0262 mol), diiodomethane (10.5 mL, 0.131 mol) and isoamyl nitrite (10.5 mL, 0.0786 mol). The reaction mixture was heated to 85° C. and stirred for 3 h, at which time it was cooled to room temperature. The heterogeneous mixture was filtered through a bed of celite, and the filter cake rinsed with ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography (100% hexanes to 2% diethyl ether in hexanes), then triturated with hexanes to afford methyl 4-cyano-5-iodo-2-methylbenzoate (3.7 g, 76%) as a white powder. 1H NMR (400 MHz, CDCl3): 8.39 (s, 1H), 7.50 (s, 1H), 3.94 (s, 3H), 2.56 (s, 3H).

reactant | methyl 5-amino-4-cyano-2-methylbenzoate | 0.0262 mol, 5.0 g | NC=1C(=CC(=C(C(=O)OC)C1)C)C#N | C10H10N2O2
reactant | diiodomethane | 0.131 mol, 10.5 mL | ICI | CH2I2
reactant | isoamyl nitrite | 0.0786 mol, 10.5 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.0262 mol, 5.0 g | [Cu](I)I
product | methyl 4-cyano-5-iodo-2-methylbenzoate | 3.7 g, 76% | C(#N)C1=CC(=C(C(=O)OC)C=C1I)C | C10H8INO2
